US06967254B2
Step A: 1-Cyclohexylmethyl-4-(3,4-dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one
To a solution of 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one 0.30 g and 0.2 mL cyclohexanecarbaldehyde in chloroform 20 mL was added NaBH3(CN) 0.1 g at 0° C., the reaction was warmed 50° C. and stirred for 1 hour. The reaction was quenched with sat.NaHCO3 25 mL at 0° C. The reaction mixture was extracted with dichloromethane, 3×50 mL. The combined organic phase was washed with brine, dried over anhydrous Na2SO4. After purification by flash chromatography, the title compound was obtained as yellow solid 0.4 g. MS (ES+): 404 (M+H)+.

reactant | 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | 0.30 g | ClC=1C=C(C=CC1Cl)C1C(NNC1C1=CC=NC=C1)=O | C14H11Cl2N3O
reactant | cyclohexanecarbaldehyde | 0.2 mL | C1(CCCCC1)C=O | C7H12O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Cyclohexylmethyl-4-(3,4-dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | C1(CCCCC1)CN1NC(C(C1C1=CC=NC=C1)C1=CC(=C(C=C1)Cl)Cl)=O | C21H23Cl2N3O
